US05512576
A solution of N-t-butoxycarbonyl-2-(3-methyl-2-butenyl)-sarcosine methyl ester (22.1 g, 81.44 mmol) in 400 ml of methanol under nitrogen was cooled to 0° C. and 1.5 g of 10% Pd/C was added. The mixture was placed into a Parr Apparatus and hydrogenated at 50 psi for 6 hours. The catalyst was removed on a pad of CELITE® and the filtrate was concentrated in vacuo to afford 22.04 g (99%) of N-t-butoxycarbonyl-2-(3-methylbutyl)-sarcosine methyl ester as an oil.

reactant | N-t-butoxycarbonyl-2-(3-methyl-2-butenyl)-sarcosine methyl ester | 81.44 mmol, 22.1 g | COC(C(N(C)C(=O)OC(C)(C)C)CC=C(C)C)=O | C14H25NO4
solvent | methanol | 400 ml | CO | CH4O
catalyst | Pd/C | 1.5 g | [Pd] | Pd
product | N-t-butoxycarbonyl-2-(3-methylbutyl)-sarcosine methyl ester | 22.04 g, 99% | COC(C(N(C)C(=O)OC(C)(C)C)CCC(C)C)=O | C14H27NO4
